US07884127B2
2-Chloro-5-fluoro-benzoic acid methyl ester
A solution of NaNO2 (3.69 g, 53.4 mmol in 50 mL water) was added dropwise to a stirred suspension of methyl 5-amino-2-chlorobenzoate (9 g, 48.5 mmol) in HCl (10%, 90 mL), keeping the temperature between 0-5° C. The reaction mixture was stirred for 10 min. and a solution of fluoroboric acid (70%, excess) was added to the mixture. The precipitate of diazonium fluoroborate salt was filtered, washed with water and dried. The pyrolysis of this salt was then carried out at 140° C. for 15-20 min. The residue was purified using a silica gel column and 10% CHCl3 in petroleum ether (60-80° C.) as an eluant to furnish the title compound.

reactant | NaNO2 | 53.4 mmol, 50 mL, 3.69 g | N(=O)[O-].[Na+]
reactant | methyl 5-amino-2-chlorobenzoate | 48.5 mmol, 9 g | NC=1C=CC(=C(C(=O)OC)C1)Cl | C8H8ClNO2
reactant | fluoroboric acid | F[B-](F)(F)F.[H+]
solvent | HCl | 90 mL | Cl | ClH
product | 2-Chloro-5-fluoro-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)F)Cl)=O | C8H6ClFO2
